US08071807B2
As described for Example 21, [3-(2-bromomethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester and 2-methyl-2-propanethiol were reacted to provide [3-(2-tert-butylsulfanylmethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester, which was reduced to [3-(4-amino-2-tert-butylsulfanylmethyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester. The amine was treated with trimethylacetyl chloride to provide {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-chloro-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester provided the acid.

reactant | [3-(4-amino-2-tert-butylsulfanylmethyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)N)CSC(C)(C)C)=O | C21H26ClNO3S
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
product | {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-chloro-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)(C)C)=O | C26H34ClNO4S
